US08071624B2
Step 2. tert-butyl (3S)-3-[({(3S)-1-[(3-chloro-2-methylphenyl)sulfonyl]piperidin-3-yl}amino) carbonyl]piperidine-1-carboxylate
tert-Butyl {(3S)-1-[(3-chloro-2-methylphenyl)sulfonyl]piperidin-3-yl}carbamate (58.34 mg, 0.0001500 mol) was treated with 4.0 M of hydrogen chloride in 1,4-dioxane (1.0 mL) at rt for 30 min. The solvent was evaporated under reduced pressure and the residue was dissolved in DMF (1.0 mL) and to this was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (69.6 mg, 0.000157 mol), 4-methylmorpholine (100.0 uL, 0.0009096 mol), and (3S)-1-(tert-butoxycarbonyl)piperidine-3-carboxylic acid (34.4 mg, 0.000150 mol) at rt. After stirring for 1 h, the reaction mixture was diluted with ethyl acetate (5 mL) and washed with NaHCO3 (7.5%, 3×2 mL) and brine (3×20 mL). The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure to give the desired product which was used directly in the next step without further purification.

reactant | tert-Butyl {(3S)-1-[(3-chloro-2-methylphenyl)sulfonyl]piperidin-3-yl}carbamate | 0.0001500 mol, 58.34 mg | ClC=1C(=C(C=CC1)S(=O)(=O)N1C[C@H](CCC1)NC(OC(C)(C)C)=O)C | C17H25ClN2O4S
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.000157 mol, 69.6 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-methylmorpholine | 0.0009096 mol, 100.0 uL | CN1CCOCC1 | C5H11NO
reactant | (3S)-1-(tert-butoxycarbonyl)piperidine-3-carboxylic acid | 0.000150 mol, 34.4 mg | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)C(=O)O | C11H19NO4
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl (3S)-3-[({(3S)-1-[(3-chloro-2-methylphenyl)sulfonyl]piperidin-3-yl}amino) carbonyl]piperidine-1-carboxylate | ClC=1C(=C(C=CC1)S(=O)(=O)N1C[C@H](CCC1)NC(=O)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)C | C23H34ClN3O5S
